US07012075B2
To (4S)-4-methyl-L-proline trifluoroacetate (2.92 g, 8.17 mmol), 1,4-dibromobenzene (2.9 g, 12.27 mmol), potassium carbonate (3.95 g, 28.6 mmol), and copper iodide (315 mg, 1.64 mmol) was added dry DMF (30 mL) under dry nitrogen. The reaction flask was thoroughly degassed with dry nitrogen and heated at 95° C. for 3 days. Water and hexane were added and the organic phase was separated and discarded (to remove excess 1,4-dibromobenzene). The pH of the aqueous phase was adjusted to 3 with aqueous 10% HCl and the product extracted with EtOAc (2×), dried over Na2SO4, concentrated in vacuo and purified by flash chromatography over silica gel (AcOH/EtOAc/Hex, 0.5/49.5/50) to afford (4S)-1-(3-bromophenyl)-4-methyl-L-proline.

reactant | (4S)-4-methyl-L-proline trifluoroacetate | 8.17 mmol, 2.92 g | FC(C(=O)O)(F)F.C[C@H]1C[C@H](NC1)C(=O)O
reactant | 1,4-dibromobenzene | 12.27 mmol, 2.9 g | BrC1=CC=C(C=C1)Br | C6H4Br2
reactant | potassium carbonate | 28.6 mmol, 3.95 g | C([O-])([O-])=O.[K+].[K+]
catalyst | copper iodide | 1.64 mmol, 315 mg | [Cu](I)I
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | (4S)-1-(3-bromophenyl)-4-methyl-L-proline | BrC=1C=C(C=CC1)N1[C@H](C(=O)O)C[C@@H](C1)C | C12H14BrNO2
